US07320991B2
This example illustrates the preparation of 2-(5-hydroxy-2,dioxo-piperidin-3(2H)-dione) having a molecular weight of about 274.2. A mixture of about 1.0 g (about 3.2 mmol) of acetic acid 5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2,6-dioxo-piperdin-3-yl-ester (single diastereomer) prepared according to Teubert, U. et al., Arch. Pharm. Pharm. Med. Chem., 1998, 331, 7 (incorporated herein by reference) and about 0.3 g (about 1.6 mmol) of p-toluenesulfonic acid was refluxed in about 30 ml of methanol for about 5 hours. The solution was allowed to cool to about room temperature. After cooling, the precipitated product was filtered and recrystallized from acetone/petroleum ether (having a boiling point of about 60° to about 80° C.). Alternatively, the precipitated, filtered product was recrystallized from acetonitrile. A yield of about 0.52 g (about a 60% yield) of 2-(5-hydroxy-2,6-dioxo-piperidin-3-yl)-1H-isoindole-1,3[2H]-dione having a melting point of about 195° to about 230° C. resulted.

reactant | acetic acid 5-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2,6-dioxo-piperdin-3-yl-ester | about 3.2 mmol, about 1.0 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC(C(NC1=O)=O)OC(C)=O | C15H12N2O6
reactant | p-toluenesulfonic acid | about 1.6 mmol, about 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | about 30 ml | CO | CH4O
product | 2-(5-hydroxy-2,6-dioxo-piperidin-3-yl)-1H-isoindole-1,3[2H]-dione | 60% yield | OC1CC(C(NC1=O)=O)N1C(C2=CC=CC=C2C1=O)=O | C13H10N2O5
